US08211919B2
A mixture of 1-(1-acetyl-2,3-dihydro-1H-indol-5-yl)ethanone (6.0 g) and N,N-dimethylformamide dimethylacetal (14.2 g) was refluxed at 110° C. for 4 hours and evaporated in vacuo. The residue was triturated with diisopropylether, collected by filtration, and dried in vacuo to afford crude (2E)-1-(1-acetyl-2,3-dihydro-1H-indol-5-yl)-3-(dimethylamino)prop-2-en-1-one (7.4 g). To a solution of crude product in methanol (100 mL) were added guanidine hydrochloride (3.56 g) and potassium tert-butoxide (3.86 g) and the mixture was stirred at 100° C. for 3 hours.

reactant | 1-(1-acetyl-2,3-dihydro-1H-indol-5-yl)ethanone | 6.0 g | C(C)(=O)N1CCC2=CC(=CC=C12)C(C)=O | C12H13NO2
reactant | N,N-dimethylformamide dimethylacetal | 14.2 g | COC(N(C)C)OC | C5H13NO2
product | (2E)-1-(1-acetyl-2,3-dihydro-1H-indol-5-yl)-3-(dimethylamino)prop-2-en-1-one | 7.4 g | C(C)(=O)N1CCC2=CC(=CC=C12)C(\C=C\N(C)C)=O | C15H18N2O2
